US04279905
A solution of 17.6 g (0.1 mole) 2,3,4,5-tetrahydro-1-benzoxepin-3,5-dione and a spatula tip of p-toluene sulfonic acid in 200 ml dichloromethane are mixed while stirring with 6 g (0.1 mole) isopropylamine and subsequently stirred to the end of the reaction at room temperature. After concentration of the solution a product is obtained by filtering off under suction and by recrystallizing from butylacetate. 13.5 g (62% of the theoretical yield) of 3-isopropylamino-1-benzoxepin-5(2H)-one are obtained.

reactant | 2,3,4,5-tetrahydro-1-benzoxepin-3,5-dione | 0.1 mole, 17.6 g | O1CC(CC(C2=C1C=CC=C2)=O)=O | C10H8O3
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isopropylamine | 0.1 mole, 6 g | C(C)(C)N | C3H9N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-isopropylamino-1-benzoxepin-5(2H)-one | C(C)(C)NC=1COC2=C(C(C1)=O)C=CC=C2 | C13H15NO2
